US08669234B2
(S)-benzyl 4-oxopyrrolidine-2-carboxylate hydrochloride
To a stirring solution of (S)-2-benzyl 1-tert-butyl 4-oxopyrrolidine-1,2-dicarboxylate (2.82 g, 8.8 mmol) in anhydrous tetrahydrofuran (44 mL) was added 4N HCl in 1,4-dioxane (9.3 mL) at room temperature. The mixture was stirred for 18 hours at room temperature. The product was then three times with toluene on rotovap to dryness to remove all the excess acid and further dried on a high vacuum overnight and used as is in the next step. Quantitative yield.

reactant | (S)-2-benzyl 1-tert-butyl 4-oxopyrrolidine-1,2-dicarboxylate | 8.8 mmol, 2.82 g | O=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C17H21NO5
reactant | HCl | 4N | Cl | ClH
solvent | tetrahydrofuran | 44 mL | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 9.3 mL | O1CCOCC1 | C4H8O2
product | (S)-benzyl 4-oxopyrrolidine-2-carboxylate hydrochloride | Quantitative yield | Cl.O=C1C[C@H](NC1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C12H13NO3.ClH/c14-10-6-11(13-7-10)12(15)16-8-9-4-2-1-3-5-9;/h1-5,11,13H,6-8H2;1H/t11-;/m0./s1
